### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/SimplicialSet/Homology): extension of scalars

### PR DESCRIPTION
**Pull request by joelriou**
If `X` is a simplicial set, `R₁ →+* R₂` is a morphism of commutative rings, and `M₁` is a `R₁`-module, then the chain complex of `R₂`-modules of `X` with coefficients in `R₂ ⊗[R₁] M₁` identifies to the extensions of scalars of the chain complex of `R₁`-modules of `X` with coefficients in `M₁`. In this file, we obtain a formulation of this result where the extension of scalars functor `ModuleCat R₁ ⥤ ModuleCat R₂` is replaced by an arbitrary functor `F : C ⥤ D` which commutes with coproducts.

(As `SimplicialObject` is now an `abbrev` for a category of functors, `SimplicialObject.whiskering` is also made an abbrev here.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/HomologicalComplex.lean [hunk 1]
```diff
@@ -271,6 +271,10 @@ theorem eqToHom_f {C₁ C₂ : HomologicalComplex V c} (h : C₁ = C₂) (n : ι
   subst h
   rfl
 
+lemma ext_of_iso {C₁ C₂ : HomologicalComplex V c} (e : C₁ ≅ C₂) (h₁ : ∀ i, C₁.X i = C₂.X i)
+    (h₂ : ∀ i, e.hom.f i = eqToHom (h₁ i) := by cat_disch) : C₁ = C₂ :=
+  HomologicalComplex.ext (by cat_disch) (fun _ _ _ ↦ by simp [← h₂])
```
Comment (dagurtomas) [inline Mathlib/Algebra/Homology/HomologicalComplex.lean]:
```suggestion
lemma ext_of_hom {C₁ C₂ : HomologicalComplex V c} (e : C₁ ⟶ C₂) (h₁ : ∀ i, C₁.X i = C₂.X i)
    (h₂ : ∀ i, e.f i = eqToHom (h₁ i) := by cat_disch) : C₁ = C₂ :=
  HomologicalComplex.ext (by cat_disch) (fun _ _ _ ↦ by simp [← h₂])
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Homology/MapHomologicalComplex.lean [hunk 2]
```diff
@@ -0,0 +1,70 @@
...
+      isoWhiskerRight ((whiskering _ _).mapIso (sigmaConstObjCompIso F R)) _
+
+variable {R} in
+@[reassoc (attr := simp)]
+lemma map_ιChainComplex_chainComplexFunctorObjCompMapIso_hom_app_f
+    {n : ℕ} (x : X _⦋n⦌) :
+   dsimp% F.map (X.ιChainComplex x) ≫
+      ((chainComplexFunctorObjCompMapIso F R).hom.app X).f n =
+    X.ιChainComplex x := by
+  simpa [chainComplexFunctorObjCompMapIso] using map_ι_sigmaConstObjCompIso_hom_app F R x
```
Comment (dagurtomas) [inline Mathlib/AlgebraicTopology/SimplicialSet/Homology/MapHomologicalComplex.lean]: `simp [chainComplexFunctorObjCompMapIso]` works if a few things are changed to `abbrev`, see https://github.com/joelriou/mathlib4/pull/1/changes/39866c485c4d0404ea9ef0fe221244c92cfa61be. Maybe `implicit_reducible` is enough in some places. You don't need to merge my suggestions there, they probably break other things and have worse performance. But maybe add a comment, since ideally `simp` should already apply the lemma `map_ι_sigmaConstObjCompIso_hom_app`

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/Homology/MapHomologicalComplex.lean]: Thanks for the suggestion. I think it is ok to not use abbrevs here as an API is provided for the definitions. Here, I have also managed to make `simp` work in a more satisfactory way.

File: Mathlib/AlgebraicTopology/SimplicialSet/Homology/MapHomologicalComplex.lean [hunk 3]
```diff
@@ -0,0 +1,71 @@
...
+      alternatingFaceMapComplex C ⋙ F.mapHomologicalComplex _ := associator _ _ _
+    _ ≅ (whiskering _ _).obj (sigmaConst.obj R) ⋙
+      (whiskering _ _).obj F ⋙ alternatingFaceMapComplex D :=
+      isoWhiskerLeft _ (alternatingFaceMapComplexCompMapHomologicalComplexIso _)
+    _ ≅ ((whiskering _ _).obj (sigmaConst.obj R) ⋙
+      (whiskering _ _).obj F) ⋙ alternatingFaceMapComplex D := (associator _ _ _).symm
+    _ ≅ (whiskering _ _).obj (sigmaConst.obj R ⋙ F) ⋙ alternatingFaceMapComplex D :=
+      isoWhiskerRight (Functor.whiskeringRightObjCompIso _ _) _
+    _ ≅ (whiskering _ _).obj (sigmaConst.obj (F.obj R)) ⋙ alternatingFaceMapComplex D :=
+      isoWhiskerRight ((whiskering _ _).mapIso (sigmaConstObjCompIso F R)) _
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Homology/MapHomologicalComplex.lean]:
```suggestion
  calc
    _ ≅ (whiskering ..).obj (sigmaConst.obj R) ⋙
      alternatingFaceMapComplex C ⋙ F.mapHomologicalComplex _ := associator ..
    _ ≅ (whiskering ..).obj (sigmaConst.obj R) ⋙
        (whiskering ..).obj F ⋙ alternatingFaceMapComplex D :=
      isoWhiskerLeft _ (alternatingFaceMapComplexCompMapHomologicalComplexIso _)
    _ ≅ ((whiskering ..).obj (sigmaConst.obj R) ⋙
        (whiskering ..).obj F) ⋙ alternatingFaceMapComplex D :=
      (associator ..).symm
    _ ≅ (whiskering ..).obj (sigmaConst.obj R ⋙ F) ⋙ alternatingFaceMapComplex D :=
      isoWhiskerRight (whiskeringRightObjCompIso ..) _
    _ ≅ (whiskering ..).obj (sigmaConst.obj (F.obj R)) ⋙ alternatingFaceMapComplex D :=
      isoWhiskerRight ((whiskering ..).mapIso (sigmaConstObjCompIso F R)) _
```
formatting nits about the calc block if you want.

File: Mathlib/CategoryTheory/Limits/Preserves/SigmaConst.lean [hunk 4]
```diff
@@ -115,8 +113,36 @@ instance :
...
+    dsimp [Sigma.map']
+    rw [← cancel_epi (PreservesCoproduct.iso F (fun (_ : T₁) ↦ X)).inv,
+      ← cancel_mono (PreservesCoproduct.iso F (fun (_ : T₂) ↦ X)).inv,
+      Iso.inv_hom_id_assoc, Category.assoc, Category.assoc, Iso.hom_inv_id, Category.comp_id,
+      PreservesCoproduct.inv_hom, PreservesCoproduct.inv_hom, sigmaComparison_map_desc]
+    ext
+    simp [Sigma.ι_desc, Sigma.ι_desc_assoc])
+
+@[reassoc (attr := simp)]
+lemma map_ι_sigmaConstObjCompIso_hom_app {T : Type w} (t : T) :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Preserves/SigmaConst.lean:142]: can you also add the lemma for the inverse?

Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Preserves/SigmaConst.lean:142]: Thanks for the suggestion!

**Comment by joelriou** [comment]
Thanks @robin-carlier for the reviews!

File: Mathlib/AlgebraicTopology/SimplicialSet/Homology/MapHomologicalComplex.lean [hunk 5]
```diff
@@ -0,0 +1,70 @@
...
+    _ ≅ (whiskering ..).obj (sigmaConst.obj R ⋙ F) ⋙ alternatingFaceMapComplex D :=
+      isoWhiskerRight (whiskeringRightObjCompIso ..) _
+    _ ≅ (whiskering ..).obj (sigmaConst.obj (F.obj R)) ⋙ alternatingFaceMapComplex D :=
+      isoWhiskerRight ((whiskering ..).mapIso (sigmaConstObjCompIso F R)) _
+
+variable {R} in
+@[reassoc (attr := simp)]
+lemma map_ιChainComplex_chainComplexFunctorObjCompMapIso_hom_app_f
+    {n : ℕ} (x : X _⦋n⦌) :
+   dsimp% F.map (X.ιChainComplex x) ≫
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Homology/MapHomologicalComplex.lean]:
```suggestion
    dsimp% F.map (X.ιChainComplex x) ≫
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Homology/MapHomologicalComplex.lean [hunk 6]
```diff
@@ -0,0 +1,70 @@
...
+namespace SSet
+
+variable {C : Type u} {D : Type u'} [Category.{v} C] [Category.{v'} D]
+  [Preadditive C] [Preadditive D] [HasCoproducts.{w} C] [HasCoproducts.{w} D]
+  (X : SSet.{w}) (F : C ⥤ D) [F.Additive]
+  [∀ (T : Type w), PreservesColimitsOfShape (Discrete T) F] (R : C)
+
+open SimplicialObject Functor in
+/-- The chain complex functor commutes with the "extension of scalars".
+More precisely, if `F : C ⥤ D` is a functor which commutes with coproducts,
```
Comment (jcommelin) [inline Mathlib/AlgebraicTopology/SimplicialSet/Homology/MapHomologicalComplex.lean]: I don't feel strong about this, but I would prefer
```suggestion
More precisely, if `F : C ⥤ D` is a functor which commutes with arbitrary coproducts,
```
to make explicit that it isn't just binary coproducts...

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+

**Comment by joelriou** [comment]
Thanks!

bors merge
